US08293909B2
5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid.
Ethyl 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate (0.15 g, 0.29 mmol, 1 eq) was dissolved in ethanol. Then sodium hydroxide (0.035 g, 1.17 mmol, 3 eq) was added, followed by the addition of water (1 ml). The reaction was warmed to 45° C. for 14 h. The solution was concentrated and diluted with water and the pH of the reaction was brought to 3 using Conc.HCl. The solid precipitated was filtered and dried under vacuum. Yield: 0.12 g (86%). 1HNMR (400 MHz, DMSO-d6): δ 1.06-1.10 (t, J=7.14 Hz, 3H), 3.01 (s, 3H), 3.62 (m, 2H), 5.34 (s, 2H), 7.27 (t, J=8.9 Hz, 2H), 7.32-7.46 (m, 4H), 7.56 (d, J=7.0 Hz, 2H), 7.63 (s, 1H), 7.80 (t, J=4.77 Hz, 2H), 8.98 (s, 1H). LCMS: (ES+) m/z=484.0 (M+H).

reactant | Ethyl 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.29 mmol, 0.15 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(=O)OCC)C2=CC=C(C=C2)F | C26H26FN3O5S
reactant | sodium hydroxide | 1.17 mmol, 0.035 g, 3 eq | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(=O)O)C2=CC=C(C=C2)F | C24H22FN3O5S
